US06541638B2
A solution of 336 mg (0.5 mmol) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid (2-cyano-ethyl)-cyclopropyl-amide, 267 mg (5 mmol) NH4Cl and 325 mg (5 mmol) NaN3 in 10 ml DMF were heated at 70° C. for 22 h. 267 mg (5 mmol) NH4Cl and 325 mg (5 mmol) NaN3 together with 40 ml DMF were added and heated at 100° C. (24h) and at 120° C. (24h). The reaction was poured in H2O (0° C.)/EtOAc (3×). The organic phases were washed with aqueous 10% KHSO4, 10% NaCl solution and dried over Na2SO4. Purification by flash-chromatography on silicagel (CH2Cl2/MeOH: 99:1) gave 143 mg (40%) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid cyclopropyl-[2-(1H -tetrazol-5-yl)-ethyl]-amide, MS: 715 (MH+).

reactant | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid (2-cyano-ethyl)-cyclopropyl-amide | 0.5 mmol, 336 mg | C(#N)CCN(C(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C1CC1 | C40H37N3O3S2
reactant | NH4Cl | 5 mmol, 267 mg | [NH4+].[Cl-]
reactant | NaN3 | 5 mmol, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 5 mmol, 267 mg | [NH4+].[Cl-]
reactant | NaN3 | 5 mmol, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid cyclopropyl-[2-(1H -tetrazol-5-yl)-ethyl]-amide | 143 mg, 40% | C1(CC1)N(C(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCC1=NN=NN1 | C40H38N6O3S2
